US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(dimethylamino)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(dimethylamino)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.1 g, 0.2 mmol) was taken up in 2 mL 30% NH4OH (aq) and heated to 140° C. for 20 min in a microwave reactor. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed with 2 mL of 0.1 N HCl (aq). The organic layer was dried over Na2SO4 and evaporated onto silica gel. Purification by flash chromatography (0 to 40% EtOAC/DCM) afforded the title compound (30 mg, 0.061 mmol, 31% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.98 (s, 1H), 7.59-7.70 (m, 2H), 7.26-7.35 (m, 1H), 7.15-7.25 (m, 4H), 7.09 (d, J=7.5 Hz, 1H), 6.48 (s, 2H), 5.68 (d, J=5.3 Hz, 1H), 3.03 (s, 6H)). MS (ESI): 489 [M+H]+.

reactant | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(dimethylamino)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.2 mmol, 0.1 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C21H16ClF2N5O2S2
reactant | NH4OH | 2 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(dimethylamino)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.061 mmol, 30 mg, 31% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C21H18F2N6O2S2
